US07538239B2
2-(2,5-dimethylcyclopenta-1,4-dienyl)phenyl(2-mesitylenesulfonyl)amine
0.645 g (1.746 mmol) of 2-(2-(2-mesitylenesulfonyl)aminophenyl)-3-methyl-2-cyclopenten-1-one and 12 mL of THF were loaded to a 50 mL flask, and then 2.30 mL (3.677 mmol) of MeLi (1.6 M in diethyl ether) was added thereto at −78° C. and stirred at the same temperature for two hours. The reaction product was stirred for 2 hours while the temperature was slowly raised. 10 mL of distilled water was added to the resultant reaction product and the THF contained therein was removed using a rotary vacuum evaporator. 10 mL of E.A and 5 mL of 2 N HCl were added to the reaction product from which the THF had been removed and strongly stirred for 3 minutes. Subsequently, the organic layer was collected from the stirred reaction product. 5 mL of E.A was twice added to the aqueous layer to obtain the organic layer. The collected organic layer was neutralized using 5 mL of NaHCO3 and dried over MgSO4 to remove water contained therein. The solvent contained in the dried product was removed using a rotary vacuum evaporator. The product was filtered using a column chromatography (hexane: E.A=10:1) (0.550 g, 88%).

reactant | 2-(2-(2-mesitylenesulfonyl)aminophenyl)-3-methyl-2-cyclopenten-1-one | 1.746 mmol, 0.645 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NC1=C(C=CC=C1)C=1C(CCC1C)=O)C | C21H23NO3S
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | MeLi | 3.677 mmol, 1.6 M, 2.30 mL | [Li]C
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | 2-(2,5-dimethylcyclopenta-1,4-dienyl)phenyl(2-mesitylenesulfonyl)amine | CC1=C(C(=CC1)C)C1=C(C=CC=C1)NS(=O)(=O)C1=C(C=C(C=C1C)C)C | C22H25NO2S
